US08980888B2
<Step 1> Synthesis of methyl 4-(5-bromo-4-(difluoromethyl)thiazol-2-yl)-1-methyl-1H-pyrazole-5-carboxylate
N-bromosuccinimide (391 mg) was added to an N,N-dimethylformamide (3.6 ml) solution of the methyl 4-(4-(difluoromethyl)thiazol-2-yl)-1-methyl-1H-pyrazole-5-carboxylate (200 mg) obtained in (Example 1.3) <Step 1>, and the obtained mixture was then stirred in a nitrogen atmosphere at 80° C. for 40 minutes. Thereafter, N-bromosuccinimide (391 mg) was further added to the reaction solution, and the obtained mixture was then stirred in a nitrogen atmosphere at 80° C. for 15 hours. Thereafter, a sodium thiosulfate aqueous solution (40 ml) and a saturated sodium hydrogen carbonate aqueous solution (60 ml) were successively added to the reaction solution, and the reaction mixture was then extracted with ethyl acetate (60 ml) twice. Organic layers were gathered. The gathered organic layer was washed with a saturated saline (100 ml) three times, and was then dried over anhydrous sodium sulfate. The solvent was distilled away under reduced pressure, and the obtained residue was then dried under reduced pressure, so as to obtain the title compound (274 mg) in the form of a brown solid.

reactant | N-bromosuccinimide | 391 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | methyl 4-(4-(difluoromethyl)thiazol-2-yl)-1-methyl-1H-pyrazole-5-carboxylate | 200 mg | FC(C=1N=C(SC1)C=1C=NN(C1C(=O)OC)C)F | C10H9F2N3O2S
reactant | N-bromosuccinimide | 391 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | sodium thiosulfate | 40 ml | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium hydrogen carbonate | 60 ml | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 3.6 ml | CN(C=O)C | C3H7NO
product | methyl 4-(5-bromo-4-(difluoromethyl)thiazol-2-yl)-1-methyl-1H-pyrazole-5-carboxylate | 274 mg | BrC1=C(N=C(S1)C=1C=NN(C1C(=O)OC)C)C(F)F | C10H8BrF2N3O2S
